US06054614
Synthesis of N-Methyl-1-naphthylamine
Into a solution of 10 g (68 mmol) of α-tetralone in 140 mL of toluene is added 200 mL (400 mmol) of a 2.0 M tetrahydrofuran solution of methylamine at -5° C. to 0° C. After the addition is complete, the reaction mixture is cooled to -40° C. and 34.6 mL (34.6 mmol) of a 1 M solution of titanium tetrachloride in methylene chloride is added over a 15 minute period. After this addition is complete, the reaction mixture is allowed to warm to ambient temperature. After stirring at ambient temperature for 16 hours, the reaction mixture is filtered and the filtrate is concentrated to a crude oil. The crude oil is then dissolved in 150 mL of xylene and 200 mg of 5% palladium on charcoal catalyst is added. The reaction mixture is then heated to reflux for 16 hours. The palladium catalyst is then removed by filtration and the filtrate is concentrated to give 9 g of a crude oil which is purified by flash chromatography (silica gel, 2.5% ethyl acetate in hexane) to give 6 g of an oil in 60% yield.

reactant | α-tetralone | 68 mmol, 10 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
reactant | methylamine | CN | CH5N
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | N-Methyl-1-naphthylamine | 6 g, 60% yield | CNC1=CC=CC2=CC=CC=C12 | C11H11N
